US05891882
Ethyl 7-(N-(2-methoxyethyl)amino)thieno[2,3-b]pyrazine-6-carboxylate
Ethyl 7-amino-thieno[2,3-b]pyrazine-6-carboxylate (1.0 g g, 4.48 mmol) prepared by the method of Schneller and Clough, J. Het. Chem., 12: 513 (1975), was treated with potassium bis(trimethylsilyl)amide (0.5M in toluene, 8.96 ml) in 15 ml THF at -70° C., and allowed to warm to room temperature. 2-Bromoethyl methyl ether (0.454 ml, 4.70 mmol) was added, and the reaction was stirred under N2 at 60° C. overnight. The mixture was cooled and evaporated, then purified by column chromatography on silica gel eluting with 1:9 ethyl acetate:hexanes to yield 0.640 g (51%) of the title compound as a yellow solid: 1H NMR (300 MHz, DMSO-d6) d 1.32 (t, 3H), 3.3 (s, 3H), 3.56 (t, 2H), 4.25 (q, 2H), 4.32 (t, 2H), 7.70 (br t, 1H), 8.76 (s, 1H), 8.77 (s, 1H); MS (DCI/NH3) m/e 282 (M+H)+.

reactant | Ethyl 7-amino-thieno[2,3-b]pyrazine-6-carboxylate | 4.48 mmol, 1.0 g | NC1=C(SC2=NC=CN=C21)C(=O)OCC | C9H9N3O2S
reactant | potassium bis(trimethylsilyl)amide | 0.5M, 8.96 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-Bromoethyl methyl ether | 4.70 mmol, 0.454 ml | COCCBr | C3H7BrO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Ethyl 7-(N-(2-methoxyethyl)amino)thieno[2,3-b]pyrazine-6-carboxylate | 0.640 g, 51% | COCCNC1=C(SC2=NC=CN=C21)C(=O)OCC | C12H15N3O3S
